US05364871
A mixture of 2-(2-acetylaminoethyl)pyridine N-oxide (70.8 g) and dimethyl sulfate (41 ml) was stirred at ambient temperature for 1.5 hours. To the mixture was added dimethylsulfoxide (420 ml) and potassium cyanide (25.6 g) and the mixture was stirred at ambient temperature for 3 hours. To the reaction mixture was added water and extracted with chloroform. The extract layer was dried over magnesium sulfate and evaporated in vacuo to give 2-(2-acetylaminoethyl)-6-cyanopyridine (74.3 g)

reactant | 2-(2-acetylaminoethyl)pyridine N-oxide | 70.8 g | C(C)(=O)NCCC1=[N+](C=CC=C1)[O-] | C9H12N2O2
reactant | dimethyl sulfate | 41 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethylsulfoxide | 420 ml | CS(=O)C | C2H6OS
reactant | potassium cyanide | 25.6 g | [C-]#N.[K+]
solvent | water | O | H2O
product | 2-(2-acetylaminoethyl)-6-cyanopyridine | 74.3 g | C(C)(=O)NCCC1=NC(=CC=C1)C#N | C10H11N3O
